US04588719
N-(5-Methoxy-1-piperidinylmethyl-benzocyclobutene
A solution of 5-methoxy-1-hydroxymethylbenzocyclobutene mesylate (38 g) and piperidine (45 ml) in toluene (180 ml) is refluxed under nitrogen for about 12 hours. The reaction mixture is filtered and the filtrate is evaporated in vacuo leaving a liquid residue which is used without further purification in the next step.

reactant | 5-methoxy-1-hydroxymethylbenzocyclobutene mesylate | 38 g | S(C)(=O)(=O)O.COC=1C=C2C(CC2CO)=CC1
reactant | piperidine | 45 ml | N1CCCCC1 | C5H11N
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methoxy-1-piperidinylmethyl-benzocyclobutene | COC=1C=C2C(CC2CN2CCCCC2)=CC1 | C15H21NO
